US08383616B2
Step iv: ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate
Hydroxylamine hydrochloride (0.89 g, 12.8 mmol) was added to a suspension of 4-(2,4-bis(benzyloxy)-5-chlorophenyl)-2-hydroxy-4-oxobut-2-enoate (5.0 g, 10.7 mmol) in EtOH (100 ml). The reaction mixture was heated to reflux for 3.5 h and then allowed to cool to RT. The resulting suspension was filtered, washed sequentially with EtOH (2×10 ml), water (2×10 ml), and EtOH (2×10 ml), and dried under vacuo to afford the title compound ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate (3.97 g, 80%) as a flocculent light-yellow solid.

reactant | Hydroxylamine hydrochloride | 12.8 mmol, 0.89 g | Cl.NO
reactant | 4-(2,4-bis(benzyloxy)-5-chlorophenyl)-2-hydroxy-4-oxobut-2-enoate | 10.7 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C(C=C(C(=O)[O-])O)=O
reactant | EtOH | 100 ml | CCO | C2H6O
product | ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate | 3.97 g, 80% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=CC(=NO1)C(=O)OCC | C26H22ClNO5
